* source OPAMP_TESTER
V_V1         15+ 0 25
V_V2         15- 0 -25
R_R18         N39072 N38768  99.9K TC=0,0 
C_C7         N38442 V-  1u  TC=0,0 
R_R12         0 N38668  100 TC=0,0 
C_C10         N38758 N38768  5u  TC=0,0 
C_C11         N39006 N38768  50pF  TC=0,0 
R_R14         N38698 N38758  220K TC=0,0 
C_C8         0 N38652  1n  TC=0,0 
R_R13         N38668 N38668  1Meg TC=0,0 
X_U7         0 N38758 15+ 15- N38768 N39006 AD797S/AD
C_C12         N38442 V+  1u  TC=0,0 
R_R15         0 N39072  100 TC=0,0 
R_R17         N38698 N38758  220K TC=0,0 
R_R11         N38668 V-  9.9K TC=0,0 
C_C9         0 0  33n  TC=0,0 
X_U6A         N39072 N38668 V+ V- N38698 LM324
V_V6         N38442 0  
+SIN 0 2m 500 0 0 0
R_R10         N38652 0  10k TC=0,0 
R_R16         N39072 N39072  1Meg TC=0,0 
R_R21         0 N41097  100 TC=0,0 
R_R19         0 N40935  100 TC=0,0 
C_C14         N41053 N40857  50pF  TC=0,0 
X_U8A         N41097 N40935 15+ 15- N41025 LM324
C_C13         N40841 N41580  1u  TC=0,0 
R_R22         N41025 N40841  220K TC=0,0 
X_U9         0 N40841 15+ 15- N40857 N41053 AD797S/AD
R_R23         N41097 N40857  100K TC=0,0 
R_R20         N41025 N40841  220K TC=0,0 
R_R24         N41580 N40857  110K TC=0,0 
R_R26         0 N43470  100 TC=0,0 
R_R30         N43632 N43382  100K TC=0,0 
X_U10A         N43632 N43470 15+ 15- N43560 LM324
C_C15         N43368 N43378  1u  TC=0,0 
R_R28         0 N43632  100 TC=0,0 
R_R29         N43560 N43368  220K TC=0,0 
R_R25         N43378 N43382  110K TC=0,0 
R_R27         N43560 N43368  220K TC=0,0 
X_U10B         0 N43368 15+ 15- N43382 LM324
X_U10C         N44552 N44502 N44572 0 N44502 LM324
V_V7         N44552 0 2.5Vdc
V_V8         N45861 0 2.5Vdc
V_V9         N44572 0 5Vdc
R_R31         N45861 N44502  1K TC=0,0 
R_R33         0 N48161  100 TC=0,0 
X_U11B         N48349 N48065 15+ 15- N48075 LM324
R_R35         0 N48287  100 TC=0,0 
X_U10D         N48287 N48161 V+ V- N48227 LM324
C_C16         N48065 N48075  10n  TC=0,0 
R_R37         N48287 N48075  10K TC=0,0 
R_R34         N48227 N48065  1000K TC=0,0 
V_V10         V+ 0 25
V_V11         V- 0 -5
R_R38         N48065 N48075  1000K TC=0,0 
R_R39         V+ N48349  220K TC=0,0 
R_R40         N48349 V-  220K TC=0,0 
